US07105544B2
1-(4-CHLOROPHENYL)-N-(3-{4-[2-FLUORO-5-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)CYCLOPENTANECARBOXAMIDE
Example 128 was prepared from 1-(4-chlorophenyl)cyclopentanecarboxylic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-fluorophenyl}-2-methylpropanamide according to the procedures described in Scheme 9: 1H NMR (400 MHz, CDCl3) δ 7.45 (s, 1H), 7.42–7.38 (m, 1H), 7.27–7.17 (m, 4H), 7.12–7.09 (m, 1H), 6.87 (t, 1H, J=8.6 Hz), 6.49 (t, 1H, J=5.4 Hz), 3.19 (q, 2H, J=5.8 Hz), 2.85–2.79 (m, 2H), 2.73–2.64 (m, 1H), 2.50–2.35 (m, 3H), 2.23 (t, 2H, J=6.6 Hz), 1.92–1.85 (m, 4H), 1.75–1.48 (m, 10H), 1.17 (d, 6H, J=6.7 Hz); ESMS m/e: 528.2 (M+H)+.

reactant | 1-(4-chlorophenyl)cyclopentanecarboxylic acid | ClC1=CC=C(C=C1)C1(CCCC1)C(=O)O | C12H13ClO2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-fluorophenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1F)NC(C(C)C)=O | C18H28FN3O
product | 1-(4-CHLOROPHENYL)-N-(3-{4-[2-FLUORO-5-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)CYCLOPENTANECARBOXAMIDE | ClC1=CC=C(C=C1)C1(CCCC1)C(=O)NCCCN1CCC(CC1)C1=C(C=CC(=C1)NC(C(C)C)=O)F | C30H39ClFN3O2
